US08420829B2
To a solution of 2,4-dinitroaniline (6.00 g, 32.76 mmol) in acetonitrile (60 mL) was added methyl-5-chloro-5-oxo-valerate (5.44 mL, 39.31 mmol, 1.2 equiv) at 20° C. in one portion. The reaction mixture was then heated to 75° C. Reaction progress was monitored periodically by HPLC (HPLC Method A). The reaction was complete after stirring for 23 hours at 75° C. to give 4-(2,4-dinitro-phenylcarbamoyl)-butyric acid methyl ester. This reaction mixture was cooled to 20° C. and a portion of the solvent was then removed in vacuo to yield a total reaction volume of approximately 25 mL. To the concentrated mixture was then added potassium carbonate (13.58 g, 98.26 mmol, 3.0 equiv) and methyl iodide (10.20 mL, 163.48 mmol, 5.0 equiv.) at 20° C. Reaction progress was monitored periodically by HPLC Method A. The reaction was complete after 17 hours at 20° C. to give 4-[(2,4-dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester. The reaction mixture was filtered to remove excess K2CO3 and the filtrate was poured into cold water (200 mL) to yield off-white solids. The solid product was collected by vacuum filtration and dried at 60° C. under vacuum/N2 sweep overnight to give 8.914 g, (84% yield) as a light tan solid.

reactant | 2,4-dinitroaniline | 32.76 mmol, 6.00 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5N3O4
reactant | methyl-5-chloro-5-oxo-valerate | 39.31 mmol, 5.44 mL, 1.2 equiv | COC(CCCC(=O)Cl)=O | C6H9ClO3
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 4-(2,4-dinitro-phenylcarbamoyl)-butyric acid methyl ester | COC(CCCC(NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)=O | C12H13N3O7
